US07776910B2
Lithium borohydride (4.99 g, 0.2290 mol) was added to a room temperature solution of 3-(4-bromo-2-methyl-phenyl)-3-cyano-propionic acid methyl ester (43.08 g, 0.1527 mol) in THF (500 mL) and the reaction mixture was stirred overnight. The reaction mixture was cooled to 0° C., and a solution of 10% KHSO4/Na2SO4 was slowly added until pH 1-2 was reached. The resulting mixture was extracted with EtOAc, and the combined organic extracts were washed with water and brine, dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 7/3) to give 27.3 g (87% yield) of 2-(4-bromo-2-methyl-phenyl)-4-hydroxy-butyronitrile as a white solid.

reactant | Lithium borohydride | 0.2290 mol, 4.99 g | [BH4-].[Li+]
reactant | 3-(4-bromo-2-methyl-phenyl)-3-cyano-propionic acid methyl ester | 0.1527 mol, 43.08 g | COC(CC(C#N)C1=C(C=C(C=C1)Br)C)=O | C12H12BrNO2
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-(4-bromo-2-methyl-phenyl)-4-hydroxy-butyronitrile | 27.3 g, 87% yield | BrC1=CC(=C(C=C1)C(C#N)CCO)C | C11H12BrNO
